US08076350B2
5-(4,4,5,5-Tetramethyl-1,3,2-dioxaborolan-2-yl)-1H-pyrrolo[2,3-b]pyridine
5-Bromo-1H-pyrrolo[2,3-b]pyridine (Alfa Aesar. 1.00 g, 5.0 mmol) was coupled with 4,4,4′,4′,5,5,5′,5′-octamethyl-2,2′-bi(1,3,2-dioxaborolane) (Aldrich. 1.52 g, 6.0 mmol) under the catalysis of {1,1′-bis(diphenylphosphino)-ferrocene]dichloro-palladium(II) dichloromethane complex PdCl2(dppf).CH2Cl2 (Aldrich. 82 mg. 0.1 mmol) with KOAc (Aldrich, 0.98 g. 10.0 mmol) in dioxane (anhydrous, 20 mL) at 80° C. for 10 h. It was then cooled down to ambient temperature, concentrated and diluted with EtOAc (100 mL). The mixture was then washed with brine (2×10 mL). The organic solution was concentrated and the residue was purified chromatography (SiO2. EtOAc/hexane, v. 50J50. Rf=0.40) to give the title compound (1.15 g, yield. 94.2%). 1H NMR (300 MHz, CD3OD) δ ppm 1.38 (s, 12 H) 6.52 (d, J=3.39 Hz, 1 H) 7.38 (d, J=3.39 Hz, 1 H) 8.34 (d, J=1.70 Hz, 1 H) 8.49 (d, J=1.36 Hz, 1 H); MS (DCI/NH3) m/z 245 (M+1)+.

reactant | 5-Bromo-1H-pyrrolo[2,3-b]pyridine | 5.0 mmol, 1.00 g | BrC=1C=C2C(=NC1)NC=C2 | C7H5BrN2
reactant | 4,4,4′,4′,5,5,5′,5′-octamethyl-2,2′-bi(1,3,2-dioxaborolane) | 6.0 mmol, 1.52 g | CC1(OB(OC1(C)C)B1OC(C(O1)(C)C)(C)C)C | C12H24B2O4
reactant | CH2Cl2 | 0.1 mmol, 82 mg | C(Cl)Cl | CH2Cl2
reactant | KOAc | 10.0 mmol, 0.98 g | CC(=O)[O-].[K+]
solvent | dioxane | 20 mL | O1CCOCC1 | C4H8O2
product | 5-(4,4,5,5-Tetramethyl-1,3,2-dioxaborolan-2-yl)-1H-pyrrolo[2,3-b]pyridine | 1.15 g, 94.2% | CC1(OB(OC1(C)C)C=1C=C2C(=NC1)NC=C2)C | C13H17BN2O2
